US06664264B2
A round bottom flask was charged with a magnetic stir bar, N,N-dibenzyl-1-[4-(phenylsulfonyl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 1.78 mmol), triflic acid (2.68 g, 17.83 mmol), and anhydrous dichloromethane (14 mL) under a nitrogen atmosphere. The reaction was judged to be complete after stirring at ambient temperature for 24 hours. The solution was partitioned between chloroform and excess aqueous sodium hydroxide (20%). The layers were separated. The aqueous layer was extracted with chloroform (3×). The organic layers were combined and then concentrated under reduced pressure to afford a light brown solid. The material was purified by chromatography over silica gel (90/10 dichloromethane/methanol) to provide a fine white powder which was recrystallized from acetonitrile to give 1-[4-(phenylsulfonyl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.32 g, 0.84 mmol) as white needles, m.p. 175-177° C. Analysis. Calculated for C20H20N4O2S: % C 63.14; % H, 5.30; % N, 14.73. Found: % C 63.14; % H, 5.24; % N, 14.77

reactant | N,N-dibenzyl-1-[4-(phenylsulfonyl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.78 mmol, 1.0 g | C(C1=CC=CC=C1)N(C1=NC=2C=CC=CC2C2=C1N=CN2CCCCS(=O)(=O)C2=CC=CC=C2)CC2=CC=CC=C2 | C34H32N4O2S
reactant | triflic acid | 17.83 mmol, 2.68 g | OS(=O)(=O)C(F)(F)F | CHF3O3S
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 1-[4-(phenylsulfonyl)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.84 mmol, 0.32 g | C1(=CC=CC=C1)S(=O)(=O)CCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C20H20N4O2S
